Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Codeine
 
Attending: ___.
 
Chief Complaint:
mid abdominal pain
 
Major Surgical or Invasive Procedure:
no surgery
 
History of Present Illness:
___ year old female- seen at ___ - transfered from ___ 
___. 36 hours of N/V- and dull crampy mid-abdominal pain. 
CT indicated incacerated ventral hernia causing a partial SBO.
 
Past Medical History:
Multiple Myeloma, HTN, DM, recent urosepsis, right femur rod for 
lytic mets, CRI, anemia, hyperchlosterolemia, laminectomy
 
Social History:
___
Family History:
not known
 
Physical Exam:
constitional- a/a/ox3-NAD
Eyessclera reddened- conjunctiva pink
ENT- no def of ENT noted
Cardiac- RRR
RESP- CTA- no CVAT
ABD- soft, not distended.not tender
MSK- no clubbing, no cyanosis- no def of extremitits noted
Skin- apx 3 inch open area in skin folds of buttocks
 
Pertinent Results:
___ 08:30AM BLOOD WBC-PND RBC-PND Hgb-PND Hct-PND MCV-PND 
MCH-PND MCHC-PND Plt Ct-PND
___ 08:30AM BLOOD WBC-PND RBC-PND Hgb-PND Hct-PND MCV-PND 
MCH-PND MCHC-PND Plt Ct-PND
___ 05:00AM BLOOD WBC-10.9 RBC-3.78* Hgb-11.5* Hct-35.9* 
MCV-95 MCH-30.4 MCHC-32.1 RDW-20.0* Plt Ct-62*
___ 05:00AM BLOOD Neuts-62 Bands-6* Lymphs-4* Monos-26* 
Eos-0 Baso-0 ___ Myelos-2*
___ 05:00AM BLOOD Hypochr-2+ Anisocy-2+ Poiklo-1+ 
Macrocy-2+ Microcy-1+ Polychr-1+
___ 08:30AM BLOOD Plt Ct-PND
___ 05:00AM BLOOD Plt Smr-VERY LOW Plt Ct-62*
___ 05:00AM BLOOD ___ PTT-31.0 ___
 
Brief Hospital Course:
Pt is ___ year old female- Presented to ___- after 
36 hours of N/V and severe mid-abdominal pain. CT indicated 
incacerated ventral hernia causing partial SBO. Obstruction 
resolved with NGT. Now tolerating regular diet.
 
Medications on Admission:
ASA-81mg daily- glipizide 2.5 mg po daily-neurontin 300mg po 
tid-procardia 30mg po daily- tenormin 25 mg po daily- 
 
Discharge Medications:
same as above
 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Incacerated ventral hernia causing ___ SBO
 
Discharge Condition:
A/A/O x3- no abd pain now, tolerating reg diet- has crack in 
skinfold over coccyx-has a tegaderm applied
 
Discharge Instructions:
ambulate several times daily-drink fluids- report any abdominal 
pain to PCP
has ___ services in place---- will add wound care to plan
 
Followup Instructions:
___